US04302607
a. 1,3-bis(dimethylphosphono)-2-methylene-propane
400 ml of trimethyl phosphite was placed into a 2-1 flask equipped with an addition funnel, a gas inlet tube, and a Vigreux column with distilling head. The phosphite was heated at reflux, then a solution of 131 g (0.425 Mole) of 2-iodomethyl-3-iodopropene [see J. Amer. Chem. Soc., 89, 4688 (1967)] in 200 ml of benzene was added dropwise over a period of 2 h, followed by an additional 100 ml of trimethyl phosphite within 30 min. The reaction was run under nitrogen, and approx. 150 ml of distillate was allowed to collect. Distillation of the reaction mixture afforded 106 g (92%) of the title compound, b.p. 125°-7°/0.08 Torr;

reactant | trimethyl phosphite | 400 ml | P(OC)(OC)OC | C3H9O3P
reactant | 2-iodomethyl-3-iodopropene | 0.425 Mole, 131 g | ICC(=C)CI | C4H6I2
reactant | trimethyl phosphite | 100 ml | P(OC)(OC)OC | C3H9O3P
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 1,3-bis(dimethylphosphono)-2-methylene-propane | 106 g, 92% | COP(=O)(OC)CC(CP(=O)(OC)OC)=C | C8H18O6P2
